Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
S/p VFib arrest, transferred from ___ for ICD placement
 
Major Surgical or Invasive Procedure:
Placement of cardioverter defibrillator 

 
History of Present Illness:
___ year old man with CAD, HTN, and HL, who is being transferred 
from ___ after a VFib arrest for ICD placement. The 
patient was at the ___ on ___ and walked up 
numerous flights of stairs and then drank several beers. He felt 
completely fine and denies any dizziness, chest pain, 
palpitations, or other complaints. Per a friend's report, he 
suddenly fell forward, striking his chest. He was unresponsive 
and noted to be frothing at the mouth. EMT noted him to be in 
VFib arrest, shocked once, and he returned to ___. He was then 
transported to ___.
.
Upon arrival at the ___, vitals were 96.1, 160/100, 80, 
18, 100% on 40% FIO2 ventilated. Labs notable for K 2.9 and 
alcohol level 134, CK 243, CK-MB 3.9, peak trop was 11. EKG 
showed Q waves in II, III, and AVF, with <0.5mm ST elevations in 
the inferior leads. CXR clear. CT of the c-spine showed 1mm 
C5-C6 retrolisthesis (likely representing degenerative changes), 
but no fracture. CT head unremarkable. ECHO showed mild global 
LV hypokinesis with LVEF 45%. He underwent cardiac cath which 
showed 20% proximal LAD lesion, with total occlusion at the 
apex; no intervention done. He elected to be transferred to 
___ for placement of ICD.
 
Past Medical History:
- Hypertension
- Hyperlipidemia  
- Coronary artery disease  
- GERD 
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathy, or 
sudden cardiac death; otherwise non contributory.    
 
Physical Exam:
ADMISSION EXAM:
VS: 98.8, 118/79, 67, 18, 100% on RA  
GENERAL: WDWN man in NAD. Oriented x3. Mood, affect appropriate.
HEENT: NCAT. Sclera anicteric. EOMI. Conjunctiva were pink, no 
pallor or cyanosis of the oral mucosa. No xanthalesma.  
NECK: Supple, JVP not elevated.  
CHEST: PMI located in ___ intercostal space, midclavicular line. 
RR, normal S1, S2. No m/r/g.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB, no crackles, 
wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not 
enlarged by palpation. No abdominial bruits.  
EXTREMITIES: WWP, no edema.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES:  
Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  
Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+
.
DISCHARGE EXAM:   
GENERAL: ___ man in NAD. Oriented x3. Mood, affect appropriate.
HEENT: NCAT. Sclera anicteric. EOMI. Conjunctiva were pink, no 
pallor or cyanosis of the oral mucosa. No xanthalesma.  
NECK: Supple, JVP not elevated.  
CHEST: PMI located in ___ intercostal space, midclavicular line. 
RR, normal S1, S2. No m/r/g. ICD in left chest wall is 
non-tender and non-erythematous. Dressing C/D/I.   
LUNGS: Resp were unlabored. CTAB, no crackles, wheezes or 
rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not 
enlarged by palpation. No abdominial bruits.  
EXTREMITIES: WWP, no edema.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES:  
Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  
Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+
 
Pertinent Results:
ADMISSION LABS:
___ 07:15PM BLOOD WBC-7.3 RBC-3.79* Hgb-11.7* Hct-33.4* 
MCV-88 MCH-30.9 MCHC-35.0 RDW-13.7 Plt ___
___ 07:15PM BLOOD ___ PTT-19.5* ___
___ 07:15PM BLOOD Glucose-102* UreaN-15 Creat-0.9 Na-139 
K-4.7 Cl-102 HCO3-28 AnGap-14
___ 07:15PM BLOOD Calcium-10.1 Phos-3.2 Mg-1.9
___ 08:10AM BLOOD Triglyc-277* HDL-64 CHOL/HD-3.4 
LDLcalc-98
.
DISCHARGE LABS:
___ 07:35AM BLOOD WBC-7.0 RBC-3.85* Hgb-12.2* Hct-33.6* 
MCV-87 MCH-31.8 MCHC-36.5* RDW-13.5 Plt ___
___ 07:35AM BLOOD Glucose-95 UreaN-14 Creat-0.8 Na-139 
K-4.3 Cl-104 HCO3-27 AnGap-12
___ 07:35AM BLOOD Calcium-9.6 Phos-3.5 Mg-2.___ year old man with HTN, HL, CAD, and h/o cocaine abuse, 
transferred from an OSH after VFib arrest for ICD placement. 
.  
# S/p VFib arrest: Unclear precipitant, though the patient does 
admit to occasional cocaine use and has a significant ETOH 
history. ECHO showed mild global LV hypokinesis with LVEF 45%. 
He underwent cardiac catheterization which revealed a 20% 
proximal LAD lesion, with total occlusion at the apex with good 
collaterals, so no stent was placed. He was transferred to ___ 
for ICD placement for secondary prevention of sudden death. The 
ICD was successfully placed without complication and he was 
continued on antibiotics (vancomycin then clindamycin) for 48 
hours afterward. He will follow up in the device clinic in 1 
week and will follow up with Dr. ___ at ___.
.
# CAD: Cath showed 20% proximal LAD lesion, with total occlusion 
at the apex with good collaterals, so no stent placed. We 
continued ASA 81mg daily and started metoprolol succinate 25mg 
daily. Lipid management as discussed below. 
.
# Pump: ECHO at OSH showed mild global LV hypokinesis with LVEF 
45%. He is currently euvolemic on exam and denies any symptoms 
of heart failure. We started lisinopril 5mg daily and metoprolol 
succinate 25mg daily.  
.
# Hypertension: The patient states that he has a history of HTN, 
though his blood pressure was well controlled during this 
admission and he was not on any blood pressure medications at 
home. We started metoprolol succinate and lisinopril as 
discussed above.
.
# Hyperlipidemia: Chol 217, ___ 277, HDL 64, LDL 98. Considering 
his CAD he may benefit from initiation of statin therapy to 
lower LDL to less than 70.  
.
# GERD: Asymptomatic. Continued omeprazole 20mg daily.       
 
Medications on Admission:
1. Omeprazole 20mg daily
2. Aspirin 81mg daily
3. Multivitamin daily 
 
Discharge Medications:
1. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
2. aspirin 81 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
3. multivitamin Tablet Sig: One (1) Tablet PO once a day.  
4. metoprolol succinate 25 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO once a day.
Disp:*30 Tablet Sustained Release 24 hr(s)* Refills:*0*
5. lisinopril 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*0*
6. clindamycin HCl 300 mg Capsule Sig: One (1) Capsule PO every 
six (6) hours.
Disp:*4 Capsule(s)* Refills:*0*
7. Percocet ___ mg Tablet Sig: One (1) Tablet PO every eight 
(8) hours as needed for pain.
Disp:*12 Tablet(s)* Refills:*0*
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Ventricular fibrillation arrest

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,
You were admitted to the hospital after a cardiac arrest. We 
placed a defibrillator so that if your heart goes into the same 
arrhythmia again, it will hopefully shock your heart back into a 
normal rhythm.
.
We have made the following changes to your medications:
- STARTED metoprolol succinate (Toprol XL) 25mg daily
- STARTED lisinopril 5mg daily
- STARTED clindamycin 300mg; 4 tablets to be taken every 6 hours
.
Please do not drive for 6 months as you just had a cardiac 
arrest.  Please discuss this with your physicians.
 
Followup Instructions:
___